Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
This patient is a ___ year old male who complains of s/p Fall, 
Transfer. ___
w/ no PMH, presents 2 days s/p fall from tree (16ft); pt w/ ___ 
scapula fractures, T1/T4 superior endplate fx, mult rib fx, 
small hemoPTX; needs transfer for trauma consult/admit This is a 
___ male transferred from ___ for 
evaluation of multiple injuries after fall. The patient fell 
from a tree, and a height of about 16 feet, 2 days ago. He has 
been in severe pain for the past 2 days, ambulatory, mostly 
lying in bed at home. He went to his doctor today, was sent to 
___, and CT scans as detailed below were obtained, 
notable for multiple thoracic compression fractures, rib 
fractures, and scapular fractures.
 
Past Medical History:
PMHx: prior HTN

PSHx: none
 
Social History:
___
Family History:
DM and lung cancer in Mother. Sister with lung cancer.

 
Physical Exam:
Admission Physical Exam:

V T BP  HR  RR  O2 Sat
General: Pleasant, lying in bed in NAD, pain with lateral 
rolling
or arm extension
HEENT: lacerations to left zygomatic arch at forehead, subtle
ecchymosis under left eye. EOMI, MMM
CV: RRR, no m/r/g
Pulm: CTAB with notable b/l wheezes, no r/r
Abd: Active BS, NT, ND
Skin: face as above, skin warm and well perfused
MSK: ___ strength to EF, WE, EE, FF, Fabd, HF, KE, PF, LTE, DF.
Pain to lateral ribs b/l. 
Neuro: Sensation intact to light touch C2-T6, L3-S2 b/l.
Cognitively, able to repeat and recall 3 objects at three
minutes. Able to repeat 5 numbers forward, but not 3 numbers
backward. Serial 7s without error. Able to name similarities
between two objects x2. Able to draw a clock face and place the
numbers in the correct quadrants without assistance or signs of
neglect. Unable to place the hands of clock at correct position
(11:40 was requested, patient placed small hand of clock at 11,
big hand at 4).
Psych: Appropriately engaged, linear thought processes

Discharge Physical Exam:
VS: T: 98.2 PO BP: 118/77 L Lying HR: 103 RR: 18 O2: 97% Ra 
GEN: A+Ox3, NAD
HEENT: periorbital ecchymosis 
PULM: Breathing comfortably on RA, no respiratory distress 
EXT: wwp, no edema b/l
 
Pertinent Results:
IMAGING:

CT chest read from ___: In the posterior left lower lobe, 
there is opacity which is suggestive of a pulmonary contusion. 
There is a small adjacent hydropneumothorax. There is small 
amount of atelectasis in the right lung base. The trachea and 
main bronchi are patent.
There is no significant axillary, mediastinal, or hilar 
adenopathy. The heart is normal in size. There is no pericardial 
effusion. The anterior mediastinum is clear. The thoracic aorta 
is normal in caliber without evidence of aneurysm or dissection. 
There is mild bilateral gynecomastia. The visualized portion of 
the abdomen is unremarkable. On bone windows, there is a T1 
superior endplate compression fracture which involves 
approximately 25% vertebral body height but is not associated 
retropulsion. There is also a tiny T4 superior endplate 
compression fracture which involves less than 10% vertebral body 
height and is not associated retropulsion. There are comminuted 
bilateral scapular fractures. There are also bilateral 
nondisplaced rib fractures which
on the left involving the posterior eighth 9 and 11th ribs and 
anterior seventh ribs and on the right posterior 11th rib. There 
are also old healed bilateral rib fractures. There is an old 
nonunited left distal clavicle fracture. 

Impression: 
1. Comminuted and displaced bilateral scapular fractures. 
2. T1 and T4 superior endplate compression fractures without 
retropulsion. 3. Bilateral nondisplaced rib fractures 
4. Tiny left hydropneumothorax and adjacent pulmonary contusion.

AM HEAD CT read from ___
Impression: 1. No acute intracranial abnormality. 

C SPINE CT from ___
Impression: 1. No acute fracture. 2. Degenerative changes.

___: CXR:
1.  Subtle opacity in the retrocardiac region, reflects known 
laceration/contusion seen on the outside hospital chest CT. 
2.  Minimally displaced fracture of the posterolateral right 
ninth rib. 
3.  Minimally displaced fracture of the distal left clavicle. 
4.  Multiple other known fractures of the scapula, thoracic 
vertebral bodies, and remaining ribs are not well visualized on 
the current study. 
  
___: MRI Thoracic Spine:
1. Evidence of mild acute to subacute compression deformities of 
the T1 and T4  vertebral bodies.  Likely compression deformity 
of the T3 inferior endplate. 
2. Associated prevertebral edema with probable injury to the 
anterior 
longitudinal ligament extending from C7 through T4-T5. 
3. Mild superimposed degenerative changes of the thoracic spine 
resulting in mild multilevel spinal canal and neural foraminal 
narrowing. 
4. Trace bilateral pleural effusions (left greater than right). 
5. There is no cord signal abnormality.  No epidural collection 
or evidence of hematoma. 
6. Additional findings as described above. 

___: CT Abdomen/Pelvis:
1. Acute infarction of the inferior pole of the right kidney 
with no evidence of renal lacerations or perinephric hematomas.  
Right renal arteries and veins appear to be patent within limits 
of non dedicated study. 
2. Acute left L3 and L4 transverse process fractures. 
3. Multiple bilateral posterior inferior nondisplaced rib 
fractures. 
4. Mildly dilated main pancreatic duct with no obstructing mass 
lesion. 

LABS:

___ 03:05PM   UREA N-10 CREAT-0.5
___ 03:05PM   LIPASE-19
___ 03:05PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:05PM   TYPE-ART PO2-91 PCO2-33* PH-7.49* TOTAL 
CO2-26 BASE XS-2
___ 03:05PM   GLUCOSE-107* LACTATE-1.3 NA+-132* K+-3.9 
CL--99
___ 03:05PM   HGB-13.6* calcHCT-41 O2 SAT-95 CARBOXYHB-3 
MET HGB-0
___ 03:05PM   freeCa-1.11*
___ 03:05PM   WBC-15.8* RBC-4.15* HGB-12.8* HCT-37.9* 
MCV-91 MCH-30.8 MCHC-33.8 RDW-15.6* RDWSD-52.5*
___ 03:05PM   PLT COUNT-171
___ 03:05PM   ___ PTT-26.4 ___
___ 03:05PM   ___
 
Brief Hospital Course:
Mr. ___ is a ___ M who initially presented to ___ 
s/p fall from tree. He was found to have b/l scapula fractures, 
T1/T4 superior endplate fractures, multiple rib fractures, and a 
small left hydropneumothorax, left pulmonary contusion.  He was 
transferred to ___ for trauma evaluation. 

The patient was further evaluated with a CXR on HD1 which 
demonstrated the previously seen pulmonary laceration/contusion 
on the OSH chest CT, as well as a minimally displaced fracture 
of the posterolateral right ninth rib and minimally displaced 
fracture of the distal left clavicle.  The patient also had a CT 
abdomen/pelvis which revealed infarct of the lower pole of the 
left kidney. The patient was admitted to the Acute Care/Trauma 
Surgery service for further evaluation.

Orthopedic Spine was consulted for the patient's T1/T4 endplate 
fractures.  The patient was initially placed on logroll 
precautions and underwent an MRI Tspine which showed mild acute 
to subacute compression deformities of the T1 and T4 
vertebral bodies as well as a likely compression deformity of 
the T3 inferior endplate.  MRI showed associated prevertebral 
edema with probable injury to the anterior longitudinal ligament 
extending from C7 through T4-T5, no cord signal abnormality.  It 
was recommended that the patient wear a hard cervical collar 
while in bed and then ___ brace when out of bed. It was 
recommended the patient follow-up in spine clinic in 
approximately 2 weeks. 

Orthopedic Surgery was consulted for management of the patient's 
scapular fractures.  It was recommended that the patient be ROM 
and WBAT b/l UE.  Occupational Therapy worked with the patient 
and recommended discharge home without services. 

The patient's pain was managed with oxycodone, acetaminophen and 
lidocaine patches.  He tolerated a regular diet, intake and 
output were monitored. The patient voided without issue. The 
patient received subcutaneous heparin for DVT prophylaxis and 
ambulated independently with the ___ brace.  The patient 
remained stable from a cardiovascular and pulmonary standpoint; 
vital signs were routinely monitored.  Incentive spirometry and 
pulmonary toilet were encouraged.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.  
 
Medications on Admission:
None 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*40 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
hold for loose stool 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
apply for 12 hours and then remove and leave off for 12 hours 
RX *lidocaine 5 % Apply Patch to area of back pain QAM Disp #*15 
Patch Refills:*1 
4.  Lidocaine 5% Patch 1 PTCH TD QAM 
apply for 12 hours and then remove and leave off for 12 hours 
RX *lidocaine 5 % Apply to area of left rib cage pain QAM Disp 
#*15 Patch Refills:*1 
5.  Lidocaine 5% Patch 1 PTCH TD QAM 
apply for 12 hours and then remove and leave off for 12 hours 
RX *lidocaine 5 % Apply to area of right rib cage pain QAM Disp 
#*15 Patch Refills:*1 
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
Take lowest effective dose. Patient may request partial fill.  
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth Daily 
Disp #*7 Packet Refills:*0 
8.  Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Fall
-Displaced bilateral scapular fractures
-Bilateral non-displaced rib fractures including the left 
anterior 7th rib, left posterior ___ and 11th ribs and the 
right posterior 11th rib
-Small left hydropneumothorax
-T1 and T4 endplate fractures
-Injury to the anterior longitudinal ligament extending from C7 
through T4-T5
-Acute infarction of the inferior pole of the right kidney 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ and 
were found to have left and right displaced scapular fractures, 
left and right rib fractures, a small area of injury to your 
left lung, spine fractures, a spine ligament injury and acute 
injury an area of the right kidney.  Your injuries were managed 
non-operatively.  The Orthopedic Spine service worked with you 
and recommended a hard cervical collar while in bed and a 
___ brace when out of bed. The Orthopedic Surgery team 
evaluated your scapular fractures and you may be range of motion 
as tolerated and may bear weight as tolerated.  Your rib 
fractures and lung injuries will heal on their own.  You have 
worked with Occupational Therapy and are now ready to be 
discharged home.  Please note the following discharge 
instructions:

Rib Fractures:

* Your injury caused left and right rib fractures which can 
cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

General Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___